US07429664B2
To a solution of 3-methoxythiophenol (3.75 g, 26.7 mmol) in ether (20 mL) was added oxalyl chloride (3.7 mL, 43 mmol) dropwise. The mixture was heated at reflux for 1.5 h, cooled to rt, and concentrated in vacuo. The resulting yellow oil was dissolved in dichloromethane (50 mL), cooled to 0° C., and was treated with aluminum chloride (4.30 g, 32.0 mmol) in portions. The mixture was heated at reflux for 30 min, cooled to rt, and poured onto ice water with stirring. The organic layer was separated and successively washed with saturated, aqueous sodum bicarbonate, water, and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (4/1 ethyl acetate/hexane) which provided 2.46 g (47%) of 6-methoxy-1-benzothiophene-2,3-dione as an orange solid.

reactant | 3-methoxythiophenol | 26.7 mmol, 3.75 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | oxalyl chloride | 43 mmol, 3.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 32.0 mmol, 4.30 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | ether | 20 mL | CCOCC | C4H10O
product | 6-methoxy-1-benzothiophene-2,3-dione | 2.46 g, 47% | COC1=CC2=C(C(C(S2)=O)=O)C=C1 | C9H6O3S
